US06245796B1
Under argon atmosphere, a dimethylformamide (5 ml) solution containing 1.00 g of 1H-furo(2,3-g]indazole was added dropwise to a dimethylformamide (10 ml) solution containing 0.27 g of sodium hydride under cooling with ice-bath, and the mixture was stirred for 30 minutes. A 0.52 ml of propylene oxide was added to the reaction mixture under ice-cooling, and the mixture was stirred at room temperature for 41 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layers were combined, washed with brine and then dried with anhydrous magnesium sulfate. After removal of the solvent, the residue was purified by a silica gel column chromatography to give 0.59 g of 1-(1H-furo[2,3-g]indazol-1-yl)propan-2-ol.

reactant | 1H-furo(2,3-g]indazole | 1.00 g | N1N=CC2=CC=C3C(=C12)C=CO3 | C9H6N2O
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | propylene oxide | 0.52 ml | C1C(C)O1 | C3H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(1H-furo[2,3-g]indazol-1-yl)propan-2-ol | 0.59 g | N1(N=CC2=CC=C3C(=C12)C=CO3)CC(C)O | C12H12N2O2
